US09428510B2
4.98 g (217 mmol) of sodium is added to 80 ml of anhydrous methanol. The reaction medium is stirred at room temperature for 10 minutes and then 10 g (72.2 mmol) of 2-chloronicotinonitrile is added at 0° C. The reaction medium is stirred at 25° C. for 16 hours. The reaction is hydrolyzed by slowly adding water at 0° C. After returning to room temperature, the precipitate obtained is filtered, rinsed with water and then dried at 50° C. to yield 7.85 g (81%) of 2-methoxy-nicotinonitrile in the form of a yellow solid.

reactant | sodium | 217 mmol, 4.98 g | [Na] | Na
reactant | methanol | 80 ml | CO | CH4O
reactant | 2-chloronicotinonitrile | 72.2 mmol, 10 g | ClC1=C(C#N)C=CC=N1 | C6H3ClN2
solvent | water | O | H2O
product | 2-methoxy-nicotinonitrile | 7.85 g, 81% | COC1=C(C#N)C=CC=N1 | C7H6N2O
